US04033756
PREPARATION OF N-CYCLOPROPYLDICHLOROACETAMIDE
To a solution of cyclopropylamine (28.6 g, 0.5 mol) and 50 ml of triethylamine in 200 ml of anhydrous benzene was added dropwise with stirring and ice-bath cooling dichloroacetyl chloride (73.7 g, 0.5 mol). The solution was stirred 2 hr at room temperature. The benzene solution was washed successively with 10% HCl, H2O and saturated NaCl solution and dried over anhydrous MgSO4. The solvent was distilled affording 68.3 g (82%) of white crystalline product, m.p. 125-71/4. Recrystallization from ethanol-benzene yielded purified product; m.p. 130°-2°.

reactant | cyclopropylamine | 0.5 mol, 28.6 g | C1(CC1)N | C3H7N
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 0.5 mol, 73.7 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-CYCLOPROPYLDICHLOROACETAMIDE | 68.3 g, 82% | C1(CC1)NC(C(Cl)Cl)=O | C5H7Cl2NO
